US05998436
Synthesis of 2-benzylamino-6-t-butylamino-3-cyano-5-fluoropyridine
To 40 ml of N-methylpyrrolidone solution of 6 g 6-t-butylamino-2-chloro-3-cyano-5-fluoropyridine was added 6.3 g of benzylamine, and the mixture was stirred under nitrogen atmosphere at 160° C. for 3 hours and allowed to cool. The reaction solution was separated by adding chloroform and water, and the organic layer was dried over magnesium sulfate, and the solvent was distilled off. The precipitated crystals were collected from the residue by filtration to obtain 2 g of the title compound as a pale yellow powder.

reactant | 6-t-butylamino-2-chloro-3-cyano-5-fluoropyridine | 6 g | C(C)(C)(C)NC1=C(C=C(C(=N1)Cl)C#N)F | C10H11ClFN3
reactant | benzylamine | 6.3 g | C(C1=CC=CC=C1)N | C7H9N
solvent | N-methylpyrrolidone | 40 ml | CN1C(CCC1)=O | C5H9NO
product | 2-benzylamino-6-t-butylamino-3-cyano-5-fluoropyridine | 2 g | C(C1=CC=CC=C1)NC1=NC(=C(C=C1C#N)F)NC(C)(C)C | C17H19FN4
